US03976635
To a solution of adipic acid (1.46 g) and triethylamine (2.8 ml) in tetrahydrofuran (30 ml), 2-ethoxycarbonyloxyimino-2-cyanoacetic acid amide (3.7 g) is added, and the resulting mixture is stirred at room temperature for 2 hours. The reaction mixture is treated as in Example A to give diethyl adipate (1.5 g) as an oil.

reactant | adipic acid | 1.46 g | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | 2-ethoxycarbonyloxyimino-2-cyanoacetic acid amide | 3.7 g | C(C)OC(=O)ON=C(C(=O)N)C#N | C6H7N3O4
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | diethyl adipate | 1.5 g | C(CCCCC(=O)OCC)(=O)OCC | C10H18O4
